US07498460B2
3-[4-(5-Phenoxypentyl)phenyl]propan-1-ol
About 5 mg of palladium on carbon (10%) are added to a solution of 98 mg of (2E)-3-{4-[5-phenoxypent-1-en-1-yl]phenyl}prop-2-en-1-ol in about 5 ml of ethyl acetate, and the mixture is hydrogenated under 1 bar of hydrogen at room temperature overnight. The mixture is filtered to remove catalyst and concentrated, and the residue is puriified on silica gel with cyclohexane/ethyl acetate 3:1. 53 mg of product are obtained.

reactant | (2E)-3-{4-[5-phenoxypent-1-en-1-yl]phenyl}prop-2-en-1-ol | 98 mg | O(C1=CC=CC=C1)CCCC=CC1=CC=C(C=C1)/C=C/CO | C20H22O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 5 mg | [Pd] | Pd
solvent | ethyl acetate | about 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-[4-(5-Phenoxypentyl)phenyl]propan-1-ol | 53 mg | O(C1=CC=CC=C1)CCCCCC1=CC=C(C=C1)CCCO | C20H26O2
